US04803280
A mixture of 1-[(ethoxycarbonyl)acetyl]piperidine, 131 g of phosphorus pentasulfide and one liter of toluene was stirred for 96 hours. The solvent was decanted and saved. The gum was washed with 250 ml of toluene. The toluene solutions were combined and concentrated in vacuo. The residue was dissolved in dichloromethane and percolated through a bed of hydrous magnesium silicate, washing with the same solvent. The filtrate and wash were combined and concentrated in vacuo, giving 92 g of ethyl 3-thioxo-N-piperidinepropionate.

reactant | 1-[(ethoxycarbonyl)acetyl]piperidine | C(C)OC(=O)CC(=O)N1CCCCC1 | C10H17NO3
reactant | phosphorus pentasulfide | 131 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | one liter | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-thioxo-N-piperidinepropionate | 92 g | S=C1CN(CCC1)CCC(=O)OCC | C10H17NO2S
